US04218375
A mixture of 6 g of 9,10-dihydro-4H-thieno-[3,2-b][1]-benzazepine and 120 ml of xylene was heated to reflux and 3.6 g of sodium hydride in a 50% suspension in oil were added thereto dropwise. The mixture was refluxed with stirring for an hour and then 18 ml of 2-(3-chloropropoxy)-tetrahydropyran were added dropwise over 5 minutes. The mixture was refluxed another 3 hours and was cooled and poured into 300 ml of ice and water. The aqueous phase was decanted and was extracted with ethyl acetate. The organic extracts were washed with water, dried over magnesium sulfate and evaporated to dryness under reduced pressure. The residue was dissolved in 120 ml of ethanol and 6 ml of 6 N hydrochloric acid were added dropwise. The mixture was stirred for 3 hours at room temperature and was then poured into 600 ml of ice and water. The mixture was extracted with methylene chloride and the organic extracts were washed with water, dried over magnesium sulfate and evaporated to dryness under reduced pressure. The residue was chromatographed over silica gel and was eluted with a 7-3 benzene-ethyl acetate to obtain 7 g of 4-(3-hydroxypropyl)-9,10-dihydro-4H-thieno-[3,2-b][1]-benzazepine melting at 73° C.

reactant | 9,10-dihydro-4H-thieno-[3,2-b][1]-benzazepine | 6 g | S1C=CC=2NC3=C(CCC21)C=CC=C3 | C12H11NS
reactant | xylene | 120 ml | C=1(C(=CC=CC1)C)C | C8H10
reactant | sodium hydride | 3.6 g | [H-].[Na+]
reactant | 2-(3-chloropropoxy)-tetrahydropyran | 18 ml | ClCCCOC1OCCCC1 | C8H15ClO2
solvent | water | O | H2O
product | 4-(3-hydroxypropyl)-9,10-dihydro-4H-thieno-[3,2-b][1]-benzazepine | 7 g | OCCCN1C2=C(CCC3=C1C=CC=C3)SC=C2 | C15H17NOS
